US07749997B2
(4-Phenylbicyclo[2.2.2]oct-1-yl)acetonitrile
A stirred mixture of 4-phenylbicyclo[2.2.2]oct-1-ylmethyl toluene-4-sulfonate (2.5 g, 6.75 mmol) and sodium cyanide (0.5 g, 10.20 mmol) in DMSO (20 mL) was heated at 100° C. under nitrogen for 5 h. After cooling overnight the mixture was poured into water (100 mL) then extracted with DCM (2×100 mL) then methyl t-butyl ether (3×100 mL). The DCM and methyl t-butyl ether phases were separately combined, washed with water (50 mL) and dried (MgSO4). The organic phases were then combined and the solvents evaporated to give the crude product which was purified by silica column chromatography (silica 40-63 micron) eluting with hexane:ethyl acetate 19:1 to give the title compound as a white solid (1.4 g; 93%).

reactant | 4-phenylbicyclo[2.2.2]oct-1-ylmethyl toluene-4-sulfonate | 6.75 mmol, 2.5 g | C1(=CC=C(C=C1)S(=O)(=O)OCC12CCC(CC1)(CC2)C2=CC=CC=C2)C | C22H26O3S
reactant | sodium cyanide | 10.20 mmol, 0.5 g | [C-]#N.[Na+]
reactant | water | 100 mL | O | H2O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | (4-Phenylbicyclo[2.2.2]oct-1-yl)acetonitrile | 1.4 g, 93% | C1(=CC=CC=C1)C12CCC(CC1)(CC2)CC#N | C16H19N
